US05508430
(iv)(a) A solution of 130 mg (0.35 mmol) of β(R)-benzyloxy-α(RS)-phenyl-1,4-dioxaspiro[4,5]decane-2(R)-ethanol in 3 ml of acetic acid was hydrogenated over 10% palladium-on-carbon under a pressure of about 4.1 atmospheres for 2 days. The catalyst was removed by filtration and the filtrate was evaporated. The crude product was purified by flash chromatography on silica gel using 2% methanol in dichloromethane for the elution. There were obtained 60 mg of α(R)-benzyl-1,4-dioxaspiro[4,5]decane-2(R)-methanol in the form of a colourless oil; MS: m/e 262 [M]+.

reactant | β(R)-benzyloxy-α(RS)-phenyl-1,4-dioxaspiro[4,5]decane-2(R)-ethanol | 0.35 mmol, 130 mg | C(C1=CC=CC=C1)O[C@H](C(O)C1=CC=CC=C1)[C@@H]1OC2(OC1)CCCCC2 | C23H28O4
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | α(R)-benzyl-1,4-dioxaspiro[4,5]decane-2(R)-methanol | 60 mg | C(C1=CC=CC=C1)[C@@H](O)[C@@H]1OC2(OC1)CCCCC2 | C16H22O3
